US09233104B2
A solution of 1-(3-bromo-5-fluorobenzyl)-4-methylpiperazine (CII) (528 mg, 1.84 mmol), bis(pinacolato)diboron (560 mg, 2.21 mmol), KOAc (541 mg, 5.51 mmol) and dry DMF (26 mL) was purged with argon. PdCl2(dppf)2 (90 mg, 0.11 mmol) was added to the reaction and purged again with argon. The solution was heated at 90° C. for 2 h. Once TLC showed the disappearance of (CII), the solution was cooled to room temperature. To this solution was added K3PO4 (588 mg, 2.76 mmol), 3-bromo-5-nitropyridin-4-amine (LXIX) (400 mg, 1.84 mmol), Pd(PPh3)4 (106 mg, 0.09 mmol) and water (5 mL). The solution was purged with argon and heated at 90° C. for 4 h. The solution was cooled to room temperature and then concentrated under reduced pressure. The residue was partitioned between CHCl3 and water. The aqueous phase was separated and washed 2×CHCl3. The combined organic phases were washed with brine, dried over MgSO4, filtered and then evaporated under vacuum. The residue was purified on a silica gel column (100% CHCl3→2:98 MeOH[7N NH3]:CHCl3) to give 3-(3-fluoro-5-((4-methylpiperazin-1-yl)methyl)phenyl)-5-nitropyridin-4-amine (CIV) as a yellow amorphous solid (419 mg, 1.21 mmol, 42% yield for 2 steps). 1H NMR (DMSO-d6, 500 MHz) δ ppm 2.14 (s, 3H), 2.27-2.41 (m, 8H), 3.52 (s, 2H), 7.16-7.22 (m, 3H), 7.42 (brs, 2H), 8.11 (s, 1H), 9.04 (s, 1H); ESIMS found for C17H20FN5O2 m/z 346.0 (M+H).

reactant | 1-(3-bromo-5-fluorobenzyl)-4-methylpiperazine | 1.84 mmol, 528 mg | BrC=1C=C(CN2CCN(CC2)C)C=C(C1)F | C12H16BrFN2
reactant | bis(pinacolato)diboron | 2.21 mmol, 560 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 5.51 mmol, 541 mg | CC(=O)[O-].[K+]
reactant | K3PO4 | 2.76 mmol, 588 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3-bromo-5-nitropyridin-4-amine | 1.84 mmol, 400 mg | BrC=1C=NC=C(C1N)[N+](=O)[O-] | C5H4BrN3O2
catalyst | PdCl2(dppf)2 | 0.11 mmol, 90 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(PPh3)4 | 0.09 mmol, 106 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5 mL | O | H2O
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
product | 3-(3-fluoro-5-((4-methylpiperazin-1-yl)methyl)phenyl)-5-nitropyridin-4-amine | 42% yield | FC=1C=C(C=C(C1)CN1CCN(CC1)C)C=1C=NC=C(C1N)[N+](=O)[O-] | C17H20FN5O2
